US09422240B2
To a solution of 4-chlorobenzaldehyde (10.0 g) in chloroform (350 mL), hydroxylamine hydrochloride (10.2 g) was added and the mixture was stirred at room temperature for 18 hours in an argon atmosphere. After adding 2 mol/L hydrochloric acid (200 mL), three extractions were conducted with chloroform. The combined organic layers were washed with saturated brine and thereafter dried over anhydrous magnesium sulfate. After removing the desiccant by filtration, the filtrate was concentrated under reduced pressure. The resulting residue was crystallized with a liquid mixture of n-hexane and chloroform to give 1-(4-chlorophenyl)-N-hydroxymethaneimine as a colorless solid (9.27 g).

reactant | 4-chlorobenzaldehyde | 10.0 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | hydroxylamine hydrochloride | 10.2 g | Cl.NO
solvent | chloroform | 350 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-chlorophenyl)-N-hydroxymethaneimine | 9.27 g | ClC1=CC=C(C=C1)C=NO | C7H6ClNO
